US04128561
Into a 1000 ml autoclave, are added 1-(2-thienyl)-2-propanol p-toluenesulfonate (75 g) and ammonia (600 ml). The whole is heated to 80° C. during 15 hours. After cooling, the autoclave is opened and the ammonia is allowed to evaporate. After adding water (100 ml) and a 1N sodium hydroxide solution (175 ml), the resulting material is extracted with ether. The ether phase is separated and then mixed with 1N hydrochloric acid (75 ml). The aqueous phase is made alkaline and is then extracted with ether. The ether extract is washed with a 5% sodium bicarbonate solution, and then with a saturated sodium chloride solution, after which it is dried over sodium sulfate. After evaporation, the residue is distilled in vacuo, to give 19 g 2-amino-1-(2-thienyl)-propane (Yield: 53%) boiling at 84°-86° C. under 12 mm Hg.

reactant | 1-(2-thienyl)-2-propanol p-toluenesulfonate | 75 g | C1(=CC=C(C=C1)S(=O)(=O)OC(CC=1SC=CC1)C)C | C14H16O3S2
reactant | ammonia | 600 ml | N | H3N
product | 2-amino-1-(2-thienyl)-propane | 19 g, Yield: 53% | NC(CC=1SC=CC1)C | C7H11NS
